US06051712
A solution of 5.0 g (16.9 mmol) of tert-butyl (3RS,4RS)-4-(4-fluoro-phenyl)-3-hydroxy-piperidine-1-carboxylate in 50 ml of methylene chloride was treated with 240 mg (1.96 mmol) of 4-dimethylamino-pyridine and 4.2 ml (29 mmol) of triethylamine and cooled to 0° C. Subsequently, 4.65 g (24.4 mmol) of 2-naphthoyl chloride were added portionwise and the reaction mixture was stirred at room temperature for 18 hours. Thereupon, the reaction mixture was treated with ice-water and extracted with methylene chloride. The combined methylene chloride phases were dried over magnesium sulphate, filtered and the solvent was distilled off in a water-jet vacuum. The crude product was chromatographed on silica gel with methylene chloride as the eluent. The thus-obtained product fractions were recrystallized from ether and n-hexane. There were obtained 7.4 g (97% of theory) of tert-butyl (3RS,4RS)-4-(4-fluoro-phenyl)-3-(naphthalen-2-ylcarbonyloxy)-piperidine-1-carboxylate as a colourless solid; MS: 450 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-(4-fluoro-phenyl)-3-hydroxy-piperidine-1-carboxylate | 16.9 mmol, 5.0 g | FC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C16H22FNO3
reactant | triethylamine | 29 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 24.4 mmol, 4.65 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | 1.96 mmol, 240 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (3RS,4RS)-4-(4-fluoro-phenyl)-3-(naphthalen-2-ylcarbonyloxy)-piperidine-1-carboxylate | 7.4 g, 97% | FC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OC(=O)C1=CC2=CC=CC=C2C=C1 | C27H28FNO4
